US06627637B2
The above product was treated with hydrazine hydrate (1 ml) in EtOH (4 ml) and water (1 ml) and stirred at RT overnight. After concentrating the reaction to an aqueous mixture, the product was extracted with methylene chloride (3 times). The combined organic solution was dried (MgSO4) and concentrated. The residue was redissolved in methylene chloride and treated with 1M HCl in ether. The precipitate was collected and washed with ether and hexane and dried to provide 102 mg of 6-isopropyltryptamine hydrochloride salt. This tryptamine obtained above was transformed into 7-Isopropyl-β-carboline according to the procedure used in example 3. The hydrochloride salt was obtained by treating a solution of 7-Isopropyl-β-carboline in methylene chloride with 1M HCl in ether and concentrating. The residue was triturated with (1:1) methylene chloride-hexane to give 15 mg of 7-isopropyl-β-carboline hydrochloride.

reactant | 7-Isopropyl-β-carboline | C(C)(C)C1=CC=C2C=3C=CN=CC3NC2=C1 | C14H14N2
reactant | HCl | 1M | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 7-isopropyl-β-carboline hydrochloride | 15 mg | Cl.C(C)(C)C1=CC=C2C=3C=CN=CC3NC2=C1 | InChI=1S/C14H14N2.ClH/c1-9(2)10-3-4-11-12-5-6-15-8-14(12)16-13(11)7-10;/h3-9,16H,1-2H3;1H
